US04159279
This compound is prepared essentially by the same procedure as described in Example 3, Step A, except that the 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol hydrochloride is replaced by 2-aminomethyl-4-(1,1-dimethylethyl)-6-(methylthio)phenol hydrochloride. Thereby is obtained 3-methylthio-5-(1,1-dimethylethyl)salicylaldehyde.

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol hydrochloride | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)I)O
reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-6-(methylthio)phenol hydrochloride | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)SC)O
product | 3-methylthio-5-(1,1-dimethylethyl)salicylaldehyde | CSC1=C(C(C=O)=CC(=C1)C(C)(C)C)O | C12H16O2S
